US08609644B2
To a solution of 2-methyl-2-propen-1-ol (0.856 g) triphenyl phosphine (4.67 g) and N-hydroxyphthalimide (2.90 g) in THF (90 mL), at 0° C., diisopropyl azodicarboxylate (3.51 mL) was added. After stirring for 2 hours, the solvent was evaporated and the crude product was purified by flash chromatography (SiO2, cyclohexane/EtOAc 85/15) to give 2-(2-methylallyloxy)isoindole-1,3-dione (2.13 g, 83%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.80 (4H, bs), 5.02 (2H, d), 4.54 (2H, s), 1.83 (3H, s).

reactant | 2-methyl-2-propen-1-ol | 0.856 g | CC(CO)=C | C4H8O
reactant | N-hydroxyphthalimide | 2.90 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diisopropyl azodicarboxylate | 3.51 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-(2-methylallyloxy)isoindole-1,3-dione | 2.13 g, 83% | CC(CON1C(C2=CC=CC=C2C1=O)=O)=C | C12H11NO3
